US05891916
3) Ethyl 8,8,8-triphenyloct-5-enoate
Under ice-cooling, 60% oil sodium hydride (1.68 g) was added to DMSO (42 ml). The mixture was stirred for one hour at 75° C., to which was added a DMSO solution (20 ml) of 4-carboxybutyl triphenylsulphonium bromide (8.87 g). The mixture was stirred for 15 minutes, to which was added a DMSO solution (5 ml) of 3,3,3- triphenyl propanal (2.86 g). The mixture was stirred for 15 minutes, which was poured into 1N HCl and dissolved in ethyl acetate. The solution was washed with water, dried and concentrated under reduced pressure. The concentrate was purified by means of a silica gel column chromatography (hexane:ethyl acetate=4:1), which was dissolved in ethanol (30 ml). To the solution was added dropwise thionyl chloride (5 ml), and the mixture was refluxed for 12 hours. The reaction mixture was cooled and, then, concentrated under reduced pressure. The concentrate was diluted with ethyl acetate, washed with water and concentrated under reduced pressure. The concentrate was purified by means of a silica gel column chromatography (hexane:ethyl acetate=10:1) to afford 6.6 g of the title compound.

reactant | sodium hydride | 1.68 g | [H-].[Na+]
reactant | 4-carboxybutyl triphenylsulphonium bromide | 8.87 g | [Br-].C(=O)(O)CCCC[SH+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3,3,3- triphenyl propanal | 2.86 g | C1(=CC=CC=C1)C(CC=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H18O
reactant | HCl | 1N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | DMSO | 42 ml | CS(=O)C | C2H6OS
product | Ethyl 8,8,8-triphenyloct-5-enoate | 6.6 g | C1(=CC=CC=C1)C(CC=CCCCC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H30O2
